### PR TITLE
[Merged by Bors] - feat(LinearAlgebra/Dimension/DivisionRing): lemmas about ranks of submodules

### PR DESCRIPTION
**Pull request by aebrose**
We add four lemmas about ranks of submodules which were missing. We also cleaned up the module docstring and unused universes.

Co-authored-by: Justus Springer <justusspringer@gmx.de>

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/LinearAlgebra/Dimension/DivisionRing.lean [hunk 1]
```diff
@@ -101,6 +102,41 @@ theorem rank_add_rank_split (db : V₂ →ₗ[K] V) (eb : V₃ →ₗ[K] V) (cd
...
+section
+
+variable {R : Type*} [CommRing R] [Nontrivial R]
+variable [SMulWithZero R K] [FaithfulSMul R K] [IsScalarTower R K K]
+variable [Module R V] [IsScalarTower R K V]
+variable (M : Submodule R V)
+
+/-- The `K`-rank of the `K`-span of an `R`-submodule `M` of `V`
+  is at most the `R`-rank of `M`. -/
+theorem rank_span_le_rank : Module.rank K (span K (M : Set V)) ≤ Module.rank R M := by
```
Comment (wwylele) [inline Mathlib/LinearAlgebra/Dimension/DivisionRing.lean:113]: Can this be proved by transitivity of and [Module.rank_top_le_rank_of_isScalarTower](https://leanprover-community.github.io/mathlib4_docs/Mathlib/LinearAlgebra/Dimension/Basic.html#Module.rank_top_le_rank_of_isScalarTower), [Submodule.restrictScalars](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Algebra/Module/Submodule/RestrictScalars.html#Submodule.restrictScalars), and [Submodule.rank_le](https://leanprover-community.github.io/mathlib4_docs/Mathlib/LinearAlgebra/Dimension/Basic.html#Submodule.rank_le) or their friends, hopefully relaxing some hypothesis?

Comment (aebrose) [reply Mathlib/LinearAlgebra/Dimension/DivisionRing.lean:113]: Those lemmas compare ranks of the _same_ module w.r.t. different scalars, but our set-up refers to different modules. An example is: for $K=\mathbb{R}$ the real numbers, $R=\mathbb{Z}$ the integers, and $M$ the integer hull of $1,\sqrt{2}$, then its $\mathbb{Z}$-rank is 2 but its $\mathbb{R}$-span is $\mathbb{R}$ itself with $\mathbb{R}$-rank 1.

Comment (wwylele) [reply Mathlib/LinearAlgebra/Dimension/DivisionRing.lean:113]: I see. I was thinking it the wrong way. I wonder if there is a way to signify this in the name.

Comment (YaelDillies) [reply Mathlib/LinearAlgebra/Dimension/DivisionRing.lean:113]: Is it in the `Submodule` namespace? If so, I think it's fine

File: Mathlib/LinearAlgebra/Dimension/DivisionRing.lean [hunk 2]
```diff
@@ -101,6 +102,41 @@ theorem rank_add_rank_split (db : V₂ →ₗ[K] V) (eb : V₃ →ₗ[K] V) (cd
...
+  rw [← hbspan, rank_span_set hbli]
+  exact LinearIndependent.cardinal_le_rank (v := Set.inclusion hbM)
+    (.of_comp M.subtype (hbli.restrict_scalars' R))
+
+/-- The `K`-rank of the `K`-span of a set in `V` is at most the `R`-rank of its `R`-span. -/
+theorem rank_span_le_rank_span (s : Set V) :
+    Module.rank K (span K s) ≤ Module.rank R (span R s) :=
+  span_span_of_tower R K s ▸ rank_span_le_rank (span R s)
+
+/-- A finrank version of `rank_span_le_rank`. -/
```
Comment (YaelDillies) [inline Mathlib/LinearAlgebra/Dimension/DivisionRing.lean]: Please make sure that docstrings are understandable on their own. You can keep the current sentence, but not as the first sentence. Same below

File: Mathlib/LinearAlgebra/Dimension/DivisionRing.lean (hunk 1 above)
Comment (wwylele) [reply Mathlib/LinearAlgebra/Dimension/DivisionRing.lean:113]: According to the Lean-aware declaration diff, it is in the global namespace, so I think we should move it to Submodle

**Review by YaelDillies — APPROVED** [review]
Thanks! 🚀

maintainer merge

File: Mathlib/LinearAlgebra/Dimension/DivisionRing.lean [hunk 3]
```diff
@@ -101,6 +102,48 @@ theorem rank_add_rank_split (db : V₂ →ₗ[K] V) (eb : V₃ →ₗ[K] V) (cd
 
 end
 
+namespace Submodule
+
+variable {R : Type*} [CommRing R] [Nontrivial R]
+variable [SMulWithZero R K] [FaithfulSMul R K] [IsScalarTower R K K]
```
Comment (jcommelin) [inline Mathlib/LinearAlgebra/Dimension/DivisionRing.lean:108]: What do you think of
```suggestion
variable [Algebra R K] [FaithfulSMul R K]
```

Comment (aebrose) [reply Mathlib/LinearAlgebra/Dimension/DivisionRing.lean:108]: We actually had `Algebra R K` first, and decided on the current assumptions based on the following reasons but are totally fine with both versions.
- `Nontrivial R` follows from `Algebra R K` and `FaithfulSmul R K` but it's not inferred automatically, so we add one line of proof to two of the lemmas because it's needed for `LinearIndependent.cardinal_le_rank`.
- We thought current assumptions are slightly more general than `Algebra R K` (they are the combined assumptions needed for [LinearIndependent.cardinal_le_rank](https://leanprover-community.github.io/mathlib4_docs/Mathlib/LinearAlgebra/Dimension/Basic.html#LinearIndependent.cardinal_le_rank) and [LinearIndependent.restrict_scalars](https://leanprover-community.github.io/mathlib4_docs/Mathlib/LinearAlgebra/LinearIndependent/Basic.html#LinearIndependent.restrict_scalars) )

So feel free to make a decision what you think is better!

Comment (jcommelin) [reply Mathlib/LinearAlgebra/Dimension/DivisionRing.lean:108]: Ok, good to hear it is a conscious decision.

Thanks :tada:

bors merge
